US07915415B2
Preparation of 2-(1H-pyrrol-1-yl)benzonitrile 9
Anthranilonitrile (10.0 grams, 85.0 mmol) was dissolved in 350 mL of acetic acid. To this was added 2,5-dimethoxytetrahydrofuran (11.0 mL, 85.0 mmol). This was stirred at reflux for 2 hours after which time the reaction mixture was pored into water and the product extracted with dichloromethane. The organic layer washed with water, dried over sodium sulfate and chromatographed on a silica gel column using a mobile phase of 1:1 dichloromethane-hexane to afford the title compound as a white solid. NMR confirms structure.

reactant | Anthranilonitrile | 85.0 mmol, 10.0 grams | C(C=1C(N)=CC=CC1)#N | C7H6N2
reactant | 2,5-dimethoxytetrahydrofuran | 85.0 mmol, 11.0 mL | COC1OC(CC1)OC | C6H12O3
reactant | water | O | H2O
solvent | acetic acid | 350 mL | C(C)(=O)O | C2H4O2
product | 2-(1H-pyrrol-1-yl)benzonitrile | N1(C=CC=C1)C1=C(C#N)C=CC=C1 | C11H8N2
